US04139403
Methyldiphenylsilane (100 g, 0.49 mol) was added at 90° over a period of 4 hrs, with stirring, to a mixture of 100 g (1.0 mol) of allyl acetate and 0.10 ml of a 0.1 M chloroplatinic acid solution in isopropanol. When half of the methyldiphenylsilane was added an additional 0.10 ml of the chloroplatinic acid solution was added. Excess allyl acetate was distilled 15 min. after the addition was completed. The residue was dissolved in 150 ml of methanol and a solution of 20 g of sodium hydroxide in 40 ml of water was added dropwise. After the mixture was stirred for 2 hrs, 200 ml of water was added, and the mixture was neutralized with hydrochloric acid. The product was extracted with methylene chloride, dried over magnesium sulfate and distilled to give 65 g (50%) of (3-hydroxypropyl) methyldiphenylsilane, bp 130°-140° (0.03 to 0.07 mm). p-Toluenesulfonyl chloride 3.5 g, 0.184 mol) was added to a solution of 29 g (0.118 mol) of (3-hydroxypropyl)methyldiphenylsilane and 14.6 g (0.184 mol) of pyridine in 60 ml of methylene chloride at 0°. The mixture was kept at 0°-5° for 18 hrs and 40 ml of ice water was added. The water layer was extracted with 40 ml of methylene chloride, and the combined organic layers were washed with 2-30 ml portions of water. Solvent was removed and the product was crystallized from ether to give 46 g (95%) (3-propyl)methyldiphenyl p-toluenesulfonate, mp 68°-69°.

reactant | Methyldiphenylsilane | 0.49 mol, 100 g | C[SiH](C1=CC=CC=C1)C1=CC=CC=C1 | C13H14Si
reactant | allyl acetate | 1.0 mol, 100 g | C(C)(=O)OCC=C | C5H8O2
solvent | isopropanol | C(C)(C)O | C3H8O
catalyst | chloroplatinic acid | 0.1 M | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
catalyst | chloroplatinic acid | 0.10 ml | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | (3-hydroxypropyl) methyldiphenylsilane | 65 g, 50% | OCCC[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C | C16H20OSi
